US05175162
To a solution of 5.4 g of 2-(4-chlorophenyl)-4,4a,5,6-tetrahydrothieno[2',3':2,3]thiepino[4,5-c]pyridazin-3(2H)-one in 60 ml of acetic acid is added 3.5 ml of 30% aqueous hydrogen peroxide solution under ice-cooling and stirred at the same temperature for 3 hours. Furthermore, to the solution is added 2 ml of 30% aqueous hydrogen peroxide solution and stirred for 2 hours. To the solution is additionally added 2 ml of aqueous 30% hydrogen peroxide solution, stirred for 2 hours and the mixture is poured into ice-cold water. The mixture is extracted with chloroform three times, the extract is washed with water and saline solution and dried over magnesium sulfate. The chloroform is distilled off to give 7 g of 2-(4-chlorophenyl)-4,4a,5,6-tetrahydrothieno[2',3':2,3]thiepino[4,5-c]pyridazin-3(2H)-one 7-oxide as pale brawn oil.

reactant | 2-(4-chlorophenyl)-4,4a,5,6-tetrahydrothieno[2',3':2,3]thiepino[4,5-c]pyridazin-3(2H)-one | 5.4 g | ClC1=CC=C(C=C1)N1N=C2C(CC1=O)CCSC1=C2C=CS1 | C16H13ClN2OS2
reactant | hydrogen peroxide | 3.5 ml | OO | H2O2
reactant | hydrogen peroxide | 2 ml | OO | H2O2
solvent | acetic acid | 60 ml | C(C)(=O)O | C2H4O2
product | 2-(4-chlorophenyl)-4,4a,5,6-tetrahydrothieno[2',3':2,3]thiepino[4,5-c]pyridazin-3(2H)-one 7-oxide | 7 g | ClC1=CC=C(C=C1)N1N=C2C(CC1=O)CCS(C1=C2C=CS1)=O | C16H13ClN2O2S2
